US08133909B2
(4-Isopropyl-phenyl)-[2-(5-trifluoromethyl-pyridin-2-yl)-ethyl]-amine
In analogy to the procedure described for the synthesis example 25 (step 1), the title compound (4-isopropyl-phenyl)-[2-(5-trifluoromethyl-pyridin-2-yl)-ethyl]-amine (MS m/e: 309.2 [M+H]+) was prepared from 4-isopropylaniline instead of 3,4-dimethylaniline and 5-trifluoromethyl-2-vinyl-pyridine.

reactant | 4-isopropylaniline | C(C)(C)C1=CC=C(N)C=C1 | C9H13N
reactant | 5-trifluoromethyl-2-vinyl-pyridine | FC(C=1C=CC(=NC1)C=C)(F)F | C8H6F3N
product | (4-isopropyl-phenyl)-[2-(5-trifluoromethyl-pyridin-2-yl)-ethyl]-amine | C(C)(C)C1=CC=C(C=C1)NCCC1=NC=C(C=C1)C(F)(F)F | C17H19F3N2
